US06340691B1
To a solution of 0.69 g of 4-(4-hydroxyphenyl)butyric acid in 10 mL of DMF was added 0.956 g of sodium bicarbonate followed by 0.36 mL of iodomethane and the resulting mixture was stirred at room temperature for 5 h. The reaction was then diluted with water, extracted with ether, dried over MgSO4, filtered and concentrated in vacuo to provide 0.553 g of methyl 4(4-hydroxyphenyl)butyrate.

reactant | 4-(4-hydroxyphenyl)butyric acid | 0.69 g | OC1=CC=C(C=C1)CCCC(=O)O | C10H12O3
reactant | sodium bicarbonate | 0.956 g | C([O-])(O)=O.[Na+]
reactant | iodomethane | 0.36 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 4(4-hydroxyphenyl)butyrate | 0.553 g | OC1=CC=C(C=C1)CCCC(=O)OC | C11H14O3
